US08084621B2
Synthesis of N-(3-(dimethylamino)propyl)-2-methyl-7-oxo-4,5,6,7-tetrahydro-1H-indole-3-carboxamide (II-4)
Similar procedure as Example 2, 2-methyl-7-oxo-4,5,6,7-tetrahydro-1H-indole-3-carboxylic acid (S4) 0.2 g (1.0 mmol) and N1,N1-dimethylpropane-1,3-diamine 0.21 g (2.1 mmol) was reacted to give 0.23 g (83%) of the titled compound as a white solid.

reactant | 2-methyl-7-oxo-4,5,6,7-tetrahydro-1H-indole-3-carboxylic acid | 1.0 mmol, 0.2 g | CC=1NC=2C(CCCC2C1C(=O)O)=O | C10H11NO3
reactant | N1,N1-dimethylpropane-1,3-diamine | 2.1 mmol, 0.21 g | CN(CCCN)C | C5H14N2
product | N-(3-(dimethylamino)propyl)-2-methyl-7-oxo-4,5,6,7-tetrahydro-1H-indole-3-carboxamide | 0.23 g, 83% | CN(CCCNC(=O)C1=C(NC=2C(CCCC12)=O)C)C | C15H23N3O2
